US08647425B2
Phthalonitrile J
A solution of intermediate D (32.7 g) in acetone (500 ml) was added to cyanuric chloride (18.5 g) in acetone (150 ml) at 0° C. and stirred at this temperature for 2 hours, maintaining the pH at 6 with 0.5M sodium hydroxide solution. The precipitated solid was filtered off, washed with ice cold water (2×250 ml) and dried to give the damp product (65.2 g).

reactant | cyanuric chloride | 18.5 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 0.5M | [OH-].[Na+]
reactant | acetone | 500 ml | CC(=O)C | C3H6O
reactant | acetone | 150 ml | CC(=O)C | C3H6O
product | Phthalonitrile | 65.2 g | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
